US06953790B2
Step F. tert-Butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxoazepan-3-ylcarbamate
10% Palladium on carbon (700 mg) was added to a solution of benzyl (3R)-6-(2,3-difluorophenyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate (2.6 g, 6.98 mmol) and di-tert-butyl dicarbonate (5.03 g, 23.0 mmol) in toluene (200 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 24 h, the mixture was filtered and concentrated. Purification by preparative reverse phase chromatography (DeltaPak C18, 15μ, 47 mm×300 mm, 70 mL/min: 80% H2O/NH4OAc: 20% CH3CN to 100% CH3CN over 60 min) afforded the pure trans title compound (1.2 g). MS 341.2 (M+1). 1H NMR (500 MHz, CDCl3) δ 7.07-7.04 (m, 2H), 6.91-6.89 (m,1H), 6.04 (br s, 1H), 5.93 (d, J=5.6 Hz, 1H), 4.46 (dd, J=10.5, 4.6 Hz, 1H), 3.65-3.59 (m, 1H), 3.21 (dd, J=15.1, 7.3 Hz, 1H), 3.05-3.00 (m, 1H), 2.25-2.20 (m, 1 H), 2.17-2.10 (m, 2H), 1.79-1.71 (m, 1H), 1.46 (s, 9H).

reactant | benzyl (3R)-6-(2,3-difluorophenyl)-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate | 6.98 mmol, 2.6 g | FC1=C(C=CC=C1F)C1=CC[C@H](C(NC1)=O)NC(OCC1=CC=CC=C1)=O | C20H18F2N2O3
reactant | di-tert-butyl dicarbonate | 23.0 mmol, 5.03 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Palladium on carbon | 700 mg | [Pd] | Pd
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxoazepan-3-ylcarbamate | 1.2 g | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=O)NC(OC(C)(C)C)=O | C17H22F2N2O3
